US04775671
A solution of 3.5 g (10.4 mmol) of (S)-12,12a-dihydro-9-oxo-8-(trifluoromethyl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid in 15 ml of N,N-dimethylformamide is treated portionwise with 2.36 g (14 mmol) of 1,1'-carbonyldiimidazole and the mixture is stirred at room temperature for 1 hour and at 50° for 0.75 hour. The mixture is then poured into 40 ml of water and extracted four times with methylene chloride. The combined organic extracts are washed twice with water, dried over magnesium sulphate and evaporated. The residue is crystallized by means of ethyl acetate/diethyl ether. There is obtained 1-[[(S)-12,12a-dihydro-9-oxo-8-(trifluoromethyl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-1-yl]carbonyl]imidazole of decomposition point 216°-218°.

reactant | (S)-12,12a-dihydro-9-oxo-8-(trifluoromethyl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid | 10.4 mmol, 3.5 g | O=C1N2[C@H](C=3N(C4=C1C(=CC=C4)C(F)(F)F)C=NC3C(=O)O)CC2 | C15H10F3N3O3
reactant | 1,1'-carbonyldiimidazole | 14 mmol, 2.36 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | 40 ml | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[[(S)-12,12a-dihydro-9-oxo-8-(trifluoromethyl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-1-yl]carbonyl]imidazole | O=C1N2[C@H](C=3N(C4=C1C(=CC=C4)C(F)(F)F)C=NC3C(=O)N3C=NC=C3)CC2 | C18H12F3N5O2
